Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Penicillins / doxycycline
 
Attending: ___.
 
Chief Complaint:
"I was having suicidal thoughts." In the ED: "I
didn't feel like living anymore." 

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year-old woman with a self-reported history
of depression and anxiety who was BIBA to ___ ED for suicidal
ideation. Upon arriving to the unit, she reports that she's not
sure what led her to have suicidal thoughts on the day of
presentation. She had been hanging out and drinking with her
friends when she eventually left after a friend made a ___
comment. She told her friends she was going to go home but
instead she went to a playground and thought for an hour about
how she could kill herself by jumping in front of a train. She
became frightened that she would actually go through with it and
called EMS. Pt denies any recent triggers for these suicidal
thoughts. Denies any trauma (physical, emotional, sexual),
"break-ups," or stress at school. She currently denies SI/HI,
self-harm urges (cutting, burning, scratching), AVH. 

She transferred from ___ to ___ last
semester. She is in her sophomore year of college, studying
sociology, and wants to be a ___. She made the ___ List
last semester and currently has all As except for 1 B. Patient
reports that she has been dealing with "uncontrollable moods" 
and
suicidal thoughts since she was ___ years-old. She says that 
she's
always had trouble "identifying" her emotions. She has a history
of cutting her arms, never requiring stitches, last time was in
___. She also has a history of burning herself with a
hair straightener and lighter, last time was around ___ years ago.
Her suicidal thoughts in the past were more passive, sometimes
more specific but with plans that "wouldn't work successfully."
Patient reports that her suicidal thoughts on the day of
presentation were different and more serious. She also reports
episodes of what she believes are panic attacks. During these
episodes she has chest pain, feels like she can't breath, feels
tremulous, and feels overwhelmed for a few minutes and has
lingering "nervousness" for a few days. Her first episode was in
___, and her last episode was in ___. From
___, she had episodes on a daily basis and says that
this time period coincides with her being unhappy at her 
previous
college when some of her friends transferred or dropped out. 
From
___ to ___, she had a couple of episodes. Patient reports
that good sleep is ___ hours. She's had episodes when she's only
slept 5 hours but feels very energized, in a good mood, and 
talks
fast. For less than a year, her friends have commented that at
times she seems all over the place and needs to slow down. 
During
these episodes, patient feels "super excited" and in the past 
has
engaged in impulsive shopping, piercings (nose, ears), and
approached guys more easily. 

When asked about her alcohol use, patient expressed that she
doesn't understand why so many people keep asking her about it.
She says that she drinks about the same as other college 
students
and has not skipped out on obligations to drink. She drinks
alcohol on ___ and ___ (total 1 bottle of wine, every
other weekend) since last ___. She has had one black-out 
since
last ___ but no history of complicated withdrawals. She used
to smoke marijuana on a daily basis until ___ when she 
quit
because it was causing her anxiety, and she didn't like feeling
"lazy and tired." She tried cocaine twice, last time a couple of
months ago, which made her "super hyper." 

Patient hopes that her admission will help her go back to school
in a better position. She recently began to see a therapist at
___, has not been started on psychotropics, and was
going to undergo ADHD testing at the beginning of ___. 

Patient has a pruritic, erythematous rash on her face, chest, 
and
upper back since finishing a course of doxycyline for a sinus
infection. The rash first appeared on the last day of her
antibiotic course (last day was on ___, total course ___ days).
Reports improving cough (sometimes productive of light green
sputum). Denies fever, chills, runny nose, headache, dizziness,
chest pain, SOB, palpitations, diaphoresis, abdominal pain,
nausea, vomiting, dysuria, diarrhea, constipation, vaginal
bleeding/discharge. 

For additional HPI, please see Dr. ___ note on
___. 

ED Course: Patient was cooperative. She received Benadryl 25 mg
PO x 1 for erythematous maculopapular rash on face, chest, upper
back s/p doxycycline treatment for sinus infection. She did not
require any physical/chemical restraints. 

Collateral: Per Dr. ___ note on ___.
___ cell ___, spoke in person as he came to
ED
after patient's friend ___, patient did not want her father 
to
know details of why she is in ED

Per her father, she was home this week for ___ break and spent
most of it drinking with friends.  She started drinking in high
school, but he believes it has gotten more out of hand in
college, though she won't say much about it to him.  He himself
is a recovering alcoholic (sober ___ years) and has made a few
comments on her drinking to her, but has not had a formal
discussion as she doesn't seem interested in listening.  He
describes her mood as vary variable and just "depends on the
day".  She doesn't cope well with arguments and set backs and
throws "temper tantrums" instead of reasoning through 
situations.
She also does not communicate much to him or her mother so they
___ sure what is going on.  She did see a therapist briefly 
in
___ grade after she was found to be cutting.  This improved and
since she has only seen the school psychiatrist for ADHD
evaluation.  Family lives in ___ and ___ is self
employed and able to pick her up from ED if need be or provide
further collateral or be updated as the patient allows." 
 
Past Medical History:
PAST PSYCHIATRIC HISTORY: Per Dr. ___ note on ___
and updated with patient as relevant.
Dx: possible ADHD, anxiety  
Hospitalizations: none
Current treaters and treatment: sees ___ at ___
student mental health 
Medication and ECT trials: None 
Self-injury/Suicide attempts: hx of cutting arms (last time
___, burning with a hair straightener and lighter (last
time ___ years ago)
Harm to others: none
Access to weapons: none 

PAST MEDICAL HISTORY: 
Anemia 

MEDICATIONS including vitamins, herbs, supplements, OTC:
Iron supplements (ferrous sulfate 325 mg daily)
OCPs (Altavera daily)

ALLERGIES: 
Penicillin, sulfa drugs, Bactrim
Most recent: doxycycline (rash)

 
Social History:
SUBSTANCE ABUSE HISTORY: Per Dr. ___ note on ___
and updated with patient as relevant. 
EtOH: drinks wine on ___ and ___ with friends (total 1
bottle of wine, every other weekend, since ___, one 
black
out, no complicated withdrawals)
Illicits: Smoked MJ daily until ___ last year, tried cocaine
twice (last time a couple of months ago)
Tobacco: Smoked 1 cigarette today, but that is unusual for her
Caffeine: 1 cup of coffee/day 

FORENSIC HISTORY: Per Dr. ___ note on ___ and
updated with patient as relevant.
Arrests: None
Convictions and jail terms: None 
Current status (pending charges, probation, parole): No legal
issues 

SOCIAL HISTORY: ___
Family History:
Per Dr. ___ note on
___ and updated with patient as relevant.
Fam Dx: Depression in maternal and paternal uncles, ___
 
Physical ___:
PHYSICAL EXAMINATION:
 * General: NAD. Well-nourished, well-developed. Appears stated
age.
 * HEENT: Normocephalic. PERRL, EOMI. Oropharynx clear.
 * Lungs: Clear to auscultation bilaterally. No crackles or
wheezes.
 * CV: Regular rate and rhythm. No murmurs/rubs/gallops. 2+ 
pedal
pulses.
 * Abdomen: Soft, nontender, nondistended; no masses or
organomegaly.
 * Extremities: No clubbing, cyanosis, or edema.
 * Skin: Warm and dry. Erythematous maculopapular rash on face,
chest, and upper back. Mild dryness and peeling of skin on face.
No excoriated lesions or draining of blood/pus. 

 Neurological:
   *Cranial Nerves:
        I: Not tested.
        II: Pupils equally round and reactive to light
 bilaterally. Visual fields are full to confrontation.
       III, IV, VI: Extraocular movements intact bilaterally
 without nystagmus.
       V, VII: Facial strength and sensation intact and
symmetric.
       VIII: Hearing intact to voice.
       IX, X: Palatal elevation symmetrical.
       XI: Sternocleidomastoid and trapezius normal bilaterally.
       XII: Tongue midline without fasciculations.
   *Motor- Normal bulk and tone bilaterally. No abnormal
movements, no tremor. Strength full power ___ throughout. No
gross focal motor or sensory deficits, normal gait.
   *Sensation: Intact to light touch.
   *Gait: Steady. No truncal ataxia. Normal stance and posture.
   *Romberg: Negative.
 
Pertinent Results:
___ 09:20PM URINE  UCG-NEGATIVE
___ 09:20PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 09:20PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-SM 
___ 07:45PM   ALT(SGPT)-23 AST(SGOT)-25 TOT BILI-<0.2 DIR 
BILI-<0.2
___ 07:45PM   TSH-2.1
___ 07:45PM   ASA-NEG ___ ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 07:45PM   WBC-9.4 RBC-4.59 HGB-14.2 HCT-42.3 MCV-92 
MCH-30.9 MCHC-33.6 RDW-12.5 RDWSD-41.6
___ 07:45PM   NEUTS-62.1 ___ MONOS-5.0 EOS-3.2 
BASOS-0.5 IM ___ AbsNeut-5.84 AbsLymp-2.72 AbsMono-0.47 
AbsEos-0.30 AbsBaso-0.05
___ 07:45PM   PLT COUNT-248
 
Brief Hospital Course:
SAFETY: Patient was placed on 15 minute checks on admission and 
remained here on that level of observation throughout. She was 
unit restricted. There were no acute safety issues during this 
hospitalization.
 
LEGAL: ___
PSYCHIATRIC:
#Unspecified mood disorder:
Ms. ___ is a ___ year-old woman with a self-reported history 
of anxiety, longstanding depressive symptoms and possible ADHD 
with recent increasing alcohol use and past illicit substance 
abuse (marijuana, cocaine), who was brought in by ambulance to 
the ___ ED after calling EMS with a plan to jump in front of a 
train in order to kill herself. Her differential diagnosis 
included unspecified mood disorder (MDD vs. adjustment disorder 
with mood disturbance), possible ADHD, additional consideration 
given to a substance-induced mood disorder, borderline 
personality traits, and less likely a bipolar affective 
disorder. Upon arriving to the unit, she endorsed improved mood 
and was no longer having suicidal ideation. Throughout her 
hospitalization, she  was very engaged and attended groups 
regularly. To address her mood and possible ADHD symptoms 
(inattention and hyperactivity in and out of school), she was 
started on bupropion 75 mg BID to good effect. Patient was also 
counseled on how alcohol and illicit substances can affect her 
mood and interact with medications. She expressed a desire to 
not drink any alcohol for the rest of the semester. Prior to 
discharge, she endorsed/exhibited good mood, euthymic affect, 
and linear thought process. Denied SI/HI and AVH. She will 
follow-up with her therapist at ___, who will connect 
her to a new psychiatrist. Diagnosis, treatment, aftercare were 
discussed with patient's mother and father during a family 
meeting on the day of discharge. 
 
MEDICAL:
#Rash/allergic reaction to doxycycline: Patient developed 
erythematous, pruritic maculopapular rash on face, chest, and 
upper back about one week prior to admission after finishing of 
course of doxycycline for a sinus infection. Rash continued to 
improve during hospitalization. Patient will follow-up at 
primary care clinic at ___. 
- Received Benadryl 25mg q6h prn

#Iron-deficiency anemia:
- Continued home ferrous sulfate 325 mg daily

#Oral contraceptive use:
- Continued home ___ daily

PSYCHOSOCIAL:
#) GROUPS/MILIEU: Patient was encouraged to participate in 
unit’s groups, milieu, and therapy opportunities. Usage of 
coping skills, mindfulness, and relaxation methods were 
encouraged. Therapy addressed family, social, work, and housing 
issues. The patient enjoyed groups and participated.
 
#) COLLATERAL CONTACTS:
-Treaters- ___ (therapist) at ___ (___)
-Records- OMR
-Family- Mother (___), Father (___)
 
#) FAMILY INVOLVEMENT:
Family meeting was held with the patient's mother and father 
prior to discharge. They understand and are in agreement with 
the current treatment and discharge plan.
 
#) INTERVENTIONS:
- Pharmacotherapy - Bupropion as detailed above
- Individual/group/milieu therapy as detailed above
- Aftercare planning by ___ - Family meeting took place prior to 
discharge and follow-up appointments were set up
 
INFORMED CONSENT:
-Bupropion
The Team discussed the indications for, intended benefits of, 
and possible side effects and risks of this medication, and 
risks and benefits of possible alternatives, including not 
taking the medication, with this patient.  We discussed the 
patient's right to decide whether to take this medication as 
well as the importance of the patient's actively participating 
in the treatment and discussing any questions about medications 
with the treatment team, and I answered the patient's questions. 
 The patient appeared able to understand and consented to begin 
the medication. 
 
RISK ASSESSMENT:
Low imminent risk of harm/violence to self/others.
 
#) Chronic/Static Risk Factors:
Chronic self-reported history of depressed mood and anxiety, 
young age, single. 

#) Modifiable Risk Factors:
-Acute major mood episode with suicidal ideation - Modified by 
medication adjustments psychotherapeutic interventions as 
detailed above.
-Substance Use - Patient was advised strongly to avoid 
etoh/drugs. She received psychoeducation on how alcohol and 
illicit substances can affect mood and interact with 
medications. 
-Limited outpatient/social support - Patient has a follow-up 
with her therapist, who will connect her to a new psychiatrist 
at ___. A family meeting took place prior to discharge 
to promote understanding of patient's diagnosis, treatment, and 
aftercare. 
 
#) Protective Factors:
Protective factors include current outpatient 
providers/treatment, strong connections to family and community 
support, high education level, medication-adherence, 
future-oriented with plans, and skills in problem solving, 
conflict resolution and handling problems in a non-violent way. 
 
PROGNOSIS:
Good. Current risk is low for intentional self-harm given that 
patient denies suicidal ideation, intent and plan, is accepting 
of treatment, is currently sober and is future oriented with 
plans. Patient was very engaged during this admission. She 
attended groups regularly, kept up with her schoolwork, was 
adherent with medications, and expressed motivation to stay 
sober, succeed in school, and continue her treatment on an 
outpatient basis. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ferrous Sulfate 325 mg PO DAILY 
2. Altavera (28) (levonorgestrel-ethinyl estrad) 0.15-0.03 mg 
oral DAILY 

 
Discharge Medications:
1. Altavera (28) (levonorgestrel-ethinyl estrad) 0.15-0.03 mg 
oral DAILY 
2. Ferrous Sulfate 325 mg PO DAILY 
3. BuPROPion 75 mg PO BID 
RX *bupropion HCl [Wellbutrin] 75 mg 1 tablet(s) by mouth twice 
a day Disp #*60 Tablet Refills:*0
4. DiphenhydrAMINE 25 mg PO Q6H:PRN rash, pruritis 
RX *diphenhydramine HCl [Benadryl Allergy] 25 mg 1 tablet(s) by 
mouth Q6H:PRN Disp #*28 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified mood disorder 
Possible ADHD
Consideration given to substance-induced mood disorder 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

Mental Status Exam:
*Appearance: Patient is a young, healthy athletic looking 
female;
appears her stated age. Good hygiene, hair in a braid.
Wearing casual clothing, leggings and a t-shirt.
Erythematous rash still present on face with some mild dryness
and peeling.
*Behavior: Calm and cooperative; pleasant. Good eye contact. No
psychomotor agitation or retardation.
*Speech: Spontaneous. Normal rate, rhythm, prosody, and volume.
Non-pressured.
*Mood: 'Good'
*Affect: Appears euthymic on exam, smiling at
appropriate times throughout the interview. 
*Thought process: Linear, sequential, goal-oriented and
future-oriented. No loosening of associations. No apparent
disorganization.
*Thought Content: Denies active suicidal ideation. Denies HI,
denies AVH. No delusions or ruminations.
*Judgment and Insight: Fair/Fair

 
Discharge Instructions:
You were hospitalized at ___ for depressed mood with suicidal 
ideation.  We adjusted your medications, and you are now ready 
for discharge and continued treatment on an outpatient basis.

-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Please continue all medications as directed.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.

It was a pleasure to have worked with you, and we wish you the 
best of health.

 
Followup Instructions:
___